US05554758
In 800 ml of methylene chloride was dissolved 80 g of (5-ethyl-2-pyridyl)ethanol, to which was added 55 g of triethylamine. To this mixture was added dropwise gradually 73.2 g of methanesulfonyl chloride while stirring under cooling, and the mixture was stirred for 3 hours at room temperature. To the reaction mixture was added 400 ml of water. The aqueous layer was separated and subjected to re-extraction, which was combined with the extracted organic layer. The resultant organic layer was washed with 400 ml of a saturated aqueous solution of sodium hydrogencarbonate, then with a saturated aqueous saline solution, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 121 g (100 %) of (5-ethyl-2-pyridyl)ethyl methanesulfonate as a pale yellow oily product.

reactant | (5-ethyl-2-pyridyl)ethanol | 80 g | C(C)C=1C=CC(=NC1)C(C)O | C9H13NO
reactant | triethylamine | 55 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 73.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 400 ml | O | H2O
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | (5-ethyl-2-pyridyl)ethyl methanesulfonate | 121 g, 100 % | CS(=O)(=O)OCCC1=NC=C(C=C1)CC | C10H15NO3S
